US07713993B2
Synthesis of tert-butyl N′-[2-(2-chloroethoxy)-2-(6-chloropyridin-3-yl)acetyl]hydrazinecarboxylate
HOBT (681 mg), IPEA (1.98 mL) and EDC (966 mg) were sequentially added to a solution of (2-chloroethoxy)-(6-chloropyridin-3-yl)acetic acid (630 mg) and tert-butyl carbazate (400 mg) in DMF (15 mL), and the reaction solution was stirred at room temperature for three hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent solvent: heptane:ethyl acetate=1:2) to obtain 666 mg of the title compound. The property value of the compound is as follows.

reactant | HOBT | 681 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | IPEA | 1.98 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2-chloroethoxy)-(6-chloropyridin-3-yl)acetic acid | 630 mg | ClCCOC(C(=O)O)C=1C=NC(=CC1)Cl | C9H9Cl2NO3
reactant | tert-butyl carbazate | 400 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 966 mg
product | tert-butyl N′-[2-(2-chloroethoxy)-2-(6-chloropyridin-3-yl)acetyl]hydrazinecarboxylate | 666 mg | ClCCOC(C(=O)NNC(=O)OC(C)(C)C)C=1C=NC(=CC1)Cl | C14H19Cl2N3O4
